2182-01-31 07:49:00 Physician Resident Progress Note
Chief Complaint: abdominal pain
   24 Hour Events:
   - Patient's MAP's improved with IVF boluses & Vasopressin since
   admission
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-1-31**] 05:43 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-1-31**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 62 (62 - 78) bpm
   BP: 117/48(65) {81/43(57) - 117/54(65)} mmHg
   RR: 10 (10 - 16) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
             Total In:
             3,880 mL
   PO:
             TF:
   IVF:
   1,880 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    341 mL
   Urine:
   141 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  3,539 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.29/60/128/23/1
   Physical Examination
   General Appearance: Overweight / Obese, moaning
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds: Wheezes
   : expiratory, throughout)
   Abdominal: Soft, Distended, Obese, large ventral hernia, involuntary
   guarding to palpation, no bowel sounds
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, to mid-calf bilaterally
   Skin:  Not assessed
   Labs / Radiology
   212 K/uL
   11.3 g/dL
   129 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.5 mEq/L
   22 mg/dL
   101 mEq/L
   136 mEq/L
   35.1 %
   23.0 K/uL
        [image002.jpg]
                             [**2182-1-31**]  03:41 AM
                             [**2182-1-31**]  04:18 AM
                             [**2182-1-31**]  07:40 AM
   WBC
   23.0
   Hct
   35.1
   Plt
   212
   Cr
   1.1
   TCO2
   31
   30
   Glucose
   129
   Other labs: PT / PTT / INR:12.9/27.3/1.1, ALT / AST:459/542, Alk Phos /
   T Bili:435/2.6, Amylase / Lipase:1169/3165, Differential-Neuts:82.0 %,
   Band:6.0 %, Lymph:3.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   LDH:448 IU/L, Ca++:8.2 mg/dL, Mg++:1.3 mg/dL, PO4:3.5 mg/dL
   Microbiology: Blood culture x 1: pending
   Assessment and Plan
   Ms. [**Known lastname 3480**] is a [**Age over 90 **] year old Russian-speaking female who presents with
   several hours of acute onset of abdominal pain, fevers, nausea, &
   vomiting consistent with acute pancreatitis.
   # SIRS/?Septic shock: Patient admitted with fever, leukocytosis, and
   hypotension, arriving to the ICU with MAP
s in the mid-50
s despite
   IVF
s. She responded well to boluses, but her pressures dropped
   quickly, so after 2.75L of IVF boluses she was placed on Vasopressin
   2.4 units/hour with sustained improvement in her maps to the
   mid-to-upper 60
s.  Likely etiology of her hypotension and fever is
   gallstone pancreatitis given her clinical, radiologic, and hematologic
   findings.
   - Continue antibiotics
   - F/u blood cultures
   - Continue IVF boluses for now
   - Continue Desmopressin 2.4 units/hr for now
   - Clarify goals of care with patient & daughter to determine ongoing
   clinical course (central line, intubation)
   # Acute pancreatitis: Patient with acute pancreatitis on CT. Lactate on
   admission 3.3, now 1.6. [**Last Name (un) 1718**] Criteria score of 4 currently,
   estimating approximately 15% mortality. Lipase 6260 on admission,
   trending down now, but with elevated Tbili and Alk Phos suggestive of
   gallstone pancreatitis. Other etiologic possibilities include: EtOH,
   TG's, and medications, but patient denies EtOH and TG
s normal. Patient
   does take a thiazide as an outpatient, but would not expect medications
   to cause degree of transaminitis. Surgery recommending medical
   management. ERCP aware and plan to intervene in the AM.
   - NPO
   - Strict I/O
   - IVF boluses for MAP >65, close monitoring given ? cardiac disease &
   current O2 requirement
   - Pain control with IV Morphine
   - Zofran PRN nausea
   - ERCP in AM
   - Trend LFT's/Amylase/Lipase
   - Holding all PO meds, including HCTZ
   - Zosyn for now, pending cultures
   - F/U blood cultures
   # Atrial fibrillation: Unclear cardiac history, though patient is s/p
   pacemaker with prolonged PR interval, V-paced on EKG and has e/o
   cardiomegaly on CXR. Home medications suggest possible CHF or CAD
   history, though none recorded. Patient with CHADS score of 3 should
   warrant anticoagulation, unclear why patient is not on Coumadin.
   - Hold Metoprolol, Nitrate, ASA, statin, HCTZ for now
   - IVF boluses PRN
   - Consider TTE if concern for ability to fluid resuscitate is high
   - Attempt to obtain OSH medical records/track down PCP
   # COPD: Unknown history of COPD reported in ED records. Does not use O2
   at baseline, but diffusely wheezy on exam.
   - Albuterol & Ipratropium nebs q6H
   - Wean O2 as tolerates
   # Diabetes Mellitus: Patient with history of DM, but per report, not on
   any medications as an outpatient.
   - NPO
   - q6H fingersticks
   - Regular insulin sliding scale
   # Hypothyroidism:
   - Levothyroxine IV 25mcg daily for now
   # Mild dementia: Unknown baseline.
   - Minimize lines & tubes
   - Frequent reorientation
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2182-1-31**] 02:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Patient & patient
s daughter (HCP)
   [**Name (NI) 156**] status: DNR / DNI
   Disposition: ICU for now
   ------ Protected Section ------
   CRITICAL CARE
   Back from ERCP intubated, sedated.  Not initiating breaths. We have
   discussed goals of care with her dtr who wants to minimize
   interventions and understands her mother is declining.  We will hold
   sedation and administer narcotics only as necessary.  Hopefully can
   move to extubation later tonight or tomorrow am and will not
   reintubate.
   Time spent 40 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2182-1-31**] 19:11 ------

2182-02-01 08:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ERCP on [**1-31**] revealed no stones, biliary sludge was noted,
   sphrincterotomy performed, pancreatic duct stent placed
   - Patient returnted from procedure intubated and sedated. Sedation was
   stopped and patient extubated successfully o/n
   - confirmed with daughter that patient is DNR/DNI
   - had 1 episode of maroon stool this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-2-1**] 05:24 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-2-1**] 01:00 AM
   Morphine Sulfate - [**2182-2-1**] 03:00 AM
   Hydralazine - [**2182-2-1**] 08:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-1**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 82 (60 - 89) bpm
   BP: 194/92(131) {106/45(65) - 194/100(136)} mmHg
   RR: 15 (10 - 16) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
                                                                  8,127 mL
                                                                    222 mL
   PO:
             TF:
   IVF:
                                                                  6,127 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                    956 mL
                                                                    320 mL
   Urine:
                                                                    756 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,171 mL
                                                                    -98 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.38/48/104/29/1
   Ve: 6.7 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General: Awake, alert, in no acute distress
   HEENT: Sclera anicteric, MMD
   Neck: supple
   Lungs: rhonchi anteriorly
   CV: Distant heart sounds, regular rate and rhythm, no murmurs, rubs,
   gallops
   Abdomen:  soft, NABS, no guarding or grimace to palpation over
   epigastric area
   GU: foley draining dark yellow urine
   Ext: warm, well perfused, 2+ pulses, 1+ pitting edema
   Labs / Radiology
   211 K/uL
   10.3 g/dL
   95 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.4 mEq/L
   21 mg/dL
   103 mEq/L
   138 mEq/L
   31.8 %
   19.0 K/uL
        [image002.jpg]
                             [**2182-1-31**]  03:41 AM
                             [**2182-1-31**]  04:18 AM
                             [**2182-1-31**]  07:40 AM
                             [**2182-1-31**]  02:44 PM
                             [**2182-1-31**]  04:13 PM
                             [**2182-2-1**]  03:34 AM
   WBC
   23.0
   25.4
   19.0
   Hct
   35.1
   34.0
   31.8
   Plt
   [**Telephone/Fax (3) 11921**]
   Cr
   1.1
   0.9
   0.7
   TCO2
   31
   30
   29
   Glucose
   129
   245
   95
   Other labs: PT / PTT / INR:13.8/33.7/1.2, ALT / AST:331/180, Alk Phos /
   T Bili:339/1.6, Amylase / Lipase:438/947, Differential-Neuts:87.5 %,
   Band:6.0 %, Lymph:6.8 %, Mono:4.6 %, Eos:0.8 %, Lactic Acid:3.0 mmol/L,
   LDH:189 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3480**] is a [**Age over 90 **] year old Russian-speaking female who presented with
   acute onset of abdominal pain, fevers, nausea, & vomiting consistent
   with acute pancreatitis.
   # Acute pancreatitis: Patient with acute pancreatitis on presentation
   CT. On admission lactate was 3.3 but quickly trended down to 1.6,
   lipase 6260 and elevated Tbili and Alk Phos supportive of the diagnosis
   of pancreatitis. Patient underwent ERCP on [**1-31**] which revelaed no
   stones but biliary sludge was noted, a sphrincterotomy performed and
   pancreatic duct stent placed. Labs are currently trending down. Patient
   returned for ERCP intubated and sedated. Upon returning to the [**Hospital Unit Name 4**]
   sedation was stopped and patient was extubated successfully.
   - will need pancreatic stent removed via ERCP in 1 week
   - keep NPO for now, IVF hydration while NPO
   - Pain control with IV Morphine
   - Zofran PRN nausea
   - cont to trend LFT's
   - Zosyn for now, pending cultures
   - F/U blood cultures
   - f/u ERCP recs
   # Maroon stool: Patient had an episode of maroon stools this am, likely
   bleeding post-procedure. ERCP fellow->only option is to do repeat ERCP
   to evaluate sphincterotomy but patient and family do not want
   re-intubation (which is what would be needed to repeat procedure).
   - pm Hct to eval for stability
   - guaiac stools
   - transfuse if Hct <28
   - f/u ERCP recs
   # SIRS: Patient admitted with fever, leukocytosis, and hypotension,
   arriving to the ICU with MAP
s in the mid-50
s. She was briefly on
   Vasopressin but this was stopped after arterial line revealed that
   patient was normo/hypertensive. WBC is trending down and she has
   remained afebrile while in the [**Hospital Unit Name 4**].
   - trend fevers and WBC
   - Continue antibiotics
   - F/u blood cultures
   # Atrial fibrillation: Patient with unclear cardiac history. She is
   currently in atrial fibrillation, has a pacemaker and is being V-paced.
   Patient with CHADS score of 3 but not on Coumadin. Patient
s home
   cardiac were held on admission.
   - will re-start metoprolol and HCTZ today as patient HTN
   - cont to hold isosorbide, re-start when patient stable on other
   cardiac meds
   - cont to monitor on tele
   # COPD: Unknown history of COPD reported in ED records. Does not use O2
   at baseline, but diffusely wheezy on exam.
   - Albuterol & Ipratropium nebs q6H
   - Wean O2 as tolerates
   # Diabetes Mellitus: Patient with history of DM, but per report, not on
   any medications as an outpatient.
   - NPO
   - q6H fingersticks
   - Regular insulin sliding scale
   # Hypothyroidism:
   - Levothyroxine IV 25mcg daily for now
   # Mild dementia: Unknown baseline.
   - Minimize lines & tubes
   - Frequent reorientation
   ICU Care
   Nutrition: NPO, IVF
   Glycemic Control: ISS
   Lines:
   20 Gauge - [**2182-1-31**] 02:36 AM
   Arterial Line - [**2182-1-31**] 12:27 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Pending improvement

2182-02-02 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hct was stable yesterday
   - found to be intermittently pacing at ~120
s on tele
   - otherwise on events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-2-2**] 06:19 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2182-2-1**] 08:07 AM
   Pantoprazole (Protonix) - [**2182-2-1**] 09:18 PM
   Morphine Sulfate - [**2182-2-1**] 09:18 PM
   Heparin Sodium (Prophylaxis) - [**2182-2-1**] 11:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 79 (78 - 96) bpm
   BP: 124/64(86) {87/57(78) - 208/98(141)} mmHg
   RR: 31 (14 - 31) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
   Height: 62 Inch
             Total In:
                                                                  1,874 mL
                                                                    191 mL
   PO:
             TF:
   IVF:
                                                                  1,874 mL
                                                                    191 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    140 mL
   Urine:
                                                                  1,265 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    609 mL
                                                                     51 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General: Awake, alert, in no acute distress
   HEENT: Sclera anicteric, MMM
   Neck: supple
   Lungs: rhonchi anteriorly
   CV: Distant heart sounds, regular rate and rhythm, no murmurs, rubs,
   gallops
   Abdomen:  soft, NABS, no guarding or pain to palpation over epigastric
   area
   GU: foley draining yellow urine
   Ext: warm, well perfused, 2+ pulses, 1+ pitting edema
   Labs / Radiology
   209 K/uL
   9.5 g/dL
   77 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   22 mg/dL
   106 mEq/L
   140 mEq/L
   29.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2182-1-31**]  03:41 AM
                             [**2182-1-31**]  04:18 AM
                             [**2182-1-31**]  07:40 AM
                             [**2182-1-31**]  02:44 PM
                             [**2182-1-31**]  04:13 PM
                             [**2182-2-1**]  03:34 AM
                             [**2182-2-1**]  02:08 PM
                             [**2182-2-2**]  03:54 AM
   WBC
   23.0
   25.4
   19.0
   16.2
   Hct
   35.1
   34.0
   31.8
   30.2
   29.8
   Plt
   [**Telephone/Fax (3) 11942**]09
   Cr
   1.1
   0.9
   0.7
   0.7
   TCO2
   31
   30
   29
   Glucose
   129
   245
   95
   77
   Other labs: PT / PTT / INR:13.8/33.7/1.2, ALT / AST:211/67, Alk Phos /
   T Bili:256/0.9, Amylase / Lipase:138/278, Differential-Neuts:87.5 %,
   Band:6.0 %, Lymph:6.8 %, Mono:4.6 %, Eos:0.8 %, Lactic Acid:3.0 mmol/L,
   Albumin:2.8 g/dL, LDH:141 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 3480**] is a [**Age over 90 **] year old Russian-speaking female who presented with
   acute onset of abdominal pain, fevers, nausea, & vomiting consistent
   with acute pancreatitis.
   # Acute pancreatitis: Patient with acute pancreatitis on presentation
   and underwent ERCP on [**1-31**] which revelaed no stones but biliary sludge
   was noted, a sphrincterotomy performed and pancreatic duct stent
   placed. Labs are currently trending down.
   - ADAT
   - Pain control with IV Morphine
   - Zofran PRN nausea
   - cont to trend LFT's
   - dc zosyn
   - F/U blood cultures
   - f/u ERCP recs and will need pancreatic stent removed via ERCP in 1
   week
   # ?GI bleed: Patient had an episode of maroon stool on [**2-1**]. This was
   tought to be due to post-procedure bleeding. ERCP team concluded only
   option is to repeat ERCP to evaluate sphincterotomy but patient and
   family adamantly refused and this would cause re-intubation and they
   would not want this. Hct was 29.8 this am stable from 30.2 yesterday.
   PPI started yesterday per ERCP team.
   - pm Hct to eval for stability
   - guaiac stools
   - transfuse if Hct <28
   - f/u ERCP recs
   - dc sq heparin
   - cont PPI
   # Leukocytosis: Patient presented with (fever and leukocytosis). Her
   WBC has continued to trend down and she has remained afebrile while in
   the [**Hospital Unit Name 4**].
   - trend fevers and WBC
   - stop antibiotics
   - F/u blood cultures
   # Atrial fibrillation: Patient with unclear cardiac history but has a
   pacemaker and is being V-paced. She has been in and out of  atrial
   fibrillation throughout her [**Hospital Unit Name 4**] stay. On tele her PM has been pacing
   at ~75 bpm with intermitten pacing at ~120 bpm. The reason for this is
   unknown.
   - will cont to hold BP meds as pt normotensive on these and with
   possible GI bleed
   - cont to monitor on tele
   - will try to obtain PM information and consider consulting EP for PM
   interrogation
   # COPD: Unknown history of COPD reported in ED records. Does not use O2
   at baseline, but diffusely wheezy on exam.
   - Albuterol & Ipratropium nebs q6H
   - Wean O2 as tolerates
   # Diabetes Mellitus: Patient with history of DM, but per report, not on
   any medications as an outpatient.
   - NPO
   - q6H fingersticks
   - Regular insulin sliding scale
   # Hypothyroidism:
   - Levothyroxine IV 25mcg daily for now
   # Mild dementia: Unknown baseline, patient appears to be doing well.
   - Minimize lines & tubes
   ICU Care
   Nutrition: regular
   Glycemic Control: ISS
   Lines:
   20 Gauge - [**2182-1-31**] 02:36 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Pending improvement

2182-02-02 11:02:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Maroon stool noted yesterday
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-2-2**] 06:19 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2182-2-1**] 09:18 PM
   Heparin Sodium (Prophylaxis) - [**2182-2-2**] 07:46 AM
   Morphine Sulfate - [**2182-2-2**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Psychiatric / Sleep: Agitated
   Flowsheet Data as of  [**2182-2-2**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 76 (74 - 93) bpm
   BP: 124/62(76) {124/56(74) - 133/62(78)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 62 Inch
             Total In:
                                                                  1,874 mL
                                                                    265 mL
   PO:
             TF:
   IVF:
                                                                  1,874 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    245 mL
   Urine:
                                                                  1,265 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    609 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   209 K/uL
   77 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.2 mEq/L
   22 mg/dL
   106 mEq/L
   140 mEq/L
   29.8 %
   16.2 K/uL
        [image002.jpg]
                             [**2182-1-31**]  03:41 AM
                             [**2182-1-31**]  04:18 AM
                             [**2182-1-31**]  07:40 AM
                             [**2182-1-31**]  02:44 PM
                             [**2182-1-31**]  04:13 PM
                             [**2182-2-1**]  03:34 AM
                             [**2182-2-1**]  02:08 PM
                             [**2182-2-2**]  03:54 AM
   WBC
   23.0
   25.4
   19.0
   16.2
   Hct
   35.1
   34.0
   31.8
   30.2
   29.8
   Plt
   [**Telephone/Fax (3) 11942**]09
   Cr
   1.1
   0.9
   0.7
   0.7
   TCO2
   31
   30
   29
   Glucose
   129
   245
   95
   77
   Other labs: PT / PTT / INR:13.8/33.7/1.2, ALT / AST:211/67, Alk Phos /
   T Bili:256/0.9, Amylase / Lipase:138/278, Differential-Neuts:87.5 %,
   Band:6.0 %, Lymph:6.8 %, Mono:4.6 %, Eos:0.8 %, Lactic Acid:3.0 mmol/L,
   Albumin:2.8 g/dL, LDH:141 IU/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female admitted with pancreatitis now with improved control of
   SIRS and recent active issue of concern for possible GI bleed.  We have
   continued improvement in liver associated enzymes.
   1)Pancreatitis-
   -Zosyn to discontinue today in the setting of non-necrotizing
   pancreatitis and minimal evidence of ongoing infection
   -Advance to clear liquids diet today and advance as tolerated
   -IVF appears to be adequate at this time and goal is to maintain U/O at
   30-50cc/d
   -She is s/p stent and sphincterotomy at this time and we have improving
   liver associated enzymes
   -ERCP to advise on timing of stent removal which may require intubation
   2)GI Bleed-_She has had maroon stool x2 over past 24 hours and
   reasoanbly minimal change in HCT over past 24 hours
   -Follow HCT
   -Transfuse for acute drop
   -Peripheral IV access is in place
   -GI to follow for any intervention which at this point is not desired
   by family and it is clinically resonable to continue with monitoring of
   HCT at this time
   ICU Care
   Nutrition: Slowly advancing diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2182-1-31**] 02:36 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:   Family updated in full and current plan for
   continued medical intervention is reasonable but will need to continue
   to re-evaluate based upon clinical improvement or decline.
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2182-02-03 07:45:00 Physician Resident Progress Note
Chief Complaint: CC: Abdominal pain
   [**Hospital Unit Name 4**] Admission: Pancreatitis, s/p ERCP
   24 Hour Events:
   - stopped zosyn
   - started PPI
   - Hct stable in PM
   - PM intermmittently pacing at 120's set likely 75
   - kept in ICU due to GI bleed (likely bounce back)
   - PM is a St. [**Male First Name (un) 1104**] Entity DR
 [**Last Name (STitle) 11962**] LINE - STOP [**2182-2-2**] 08:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-2-2**] 06:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-2-2**] 07:46 AM
   Morphine Sulfate - [**2182-2-3**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-3**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 73 (73 - 89) bpm
   BP: 135/65(82) {117/37(55) - 156/76(91)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 62 Inch
             Total In:
                                                                    530 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                    530 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    727 mL
                                                                    290 mL
   Urine:
                                                                    727 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -197 mL
                                                                   -214 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General: Awake, alert, in no acute distress
   HEENT: Sclera anicteric, MMM
   Neck: supple
   Lungs: rhonchi anteriorly
   CV: Distant heart sounds, regular rate and rhythm, no murmurs, rubs,
   gallops
   Abdomen:  soft, NABS, no guarding or pain to palpation over epigastric
   are
   GU: foley draining yellow urine
   Ext: warm, well perfused, 2+ pulses, 1+ pitting edema
   Labs / Radiology
   233 K/uL
   9.3 g/dL
   94 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   21 mg/dL
   102 mEq/L
   138 mEq/L
   29.4 %
   11.7 K/uL
        [image002.jpg]
                             [**2182-1-31**]  03:41 AM
                             [**2182-1-31**]  04:18 AM
                             [**2182-1-31**]  07:40 AM
                             [**2182-1-31**]  02:44 PM
                             [**2182-1-31**]  04:13 PM
                             [**2182-2-1**]  03:34 AM
                             [**2182-2-1**]  02:08 PM
                             [**2182-2-2**]  03:54 AM
                             [**2182-2-2**]  02:11 PM
                             [**2182-2-3**]  06:30 AM
   WBC
   23.0
   25.4
   19.0
   16.2
   11.7
   Hct
   35.1
   34.0
   31.8
   30.2
   29.8
   29.9
   29.4
   Plt
   [**Telephone/Fax (3) 11942**]09
   233
   Cr
   1.1
   0.9
   0.7
   0.7
   0.6
   TCO2
   31
   30
   29
   Glucose
   129
   245
   95
   77
   94
   Other labs: PT / PTT / INR:13.8/33.7/1.2, ALT / AST:143/32, Alk Phos /
   T Bili:225/0.6, Amylase / Lipase:138/278, Differential-Neuts:87.5 %,
   Band:6.0 %, Lymph:6.8 %, Mono:4.6 %, Eos:0.8 %, Lactic Acid:3.0 mmol/L,
   Albumin:2.8 g/dL, LDH:141 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Imaging: CXR [**2182-2-1**]:
   REASON FOR EXAM: Septic shock secondary to pancreatitis.
   This examination is very limited technically. The chin obscures the
   apices of
   the lungs. There are very low lung volumes and the projection is
   craniocaudad. Allowing these, there appears to be worsening of
   bibasilar
   atelectasis compared to prior study, [**2182-1-30**]. Cardiomediastinal
   contours cannot be evaluated. If any, there is a small left pleural
   effusion.
   Microbiology: [**2182-1-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2182-1-31**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2182-1-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
   Ms. [**Known lastname 3480**] is a [**Age over 90 **] year old Russian-speaking female who presented with
   acute onset of abdominal pain, fevers, nausea, & vomiting consistent
   with acute pancreatitis.
   # Acute pancreatitis: Patient with acute pancreatitis on presentation
   and underwent ERCP on [**1-31**] which revealed no stones but biliary sludge
   was noted, a sphrincterotomy performed and pancreatic duct stent
   placed. Labs are currently trending down.
   - ADAT
   - Pain control with IV Morphine
   - Zofran PRN nausea
   - cont to trend LFT's
   - dc zosyn
   - F/U blood cultures
   - f/u ERCP recs and will need pancreatic stent removed via ERCP in 1
   week
   # ?GI bleed: Patient had an episode of maroon stool on [**2-1**]. This was
   tought to be due to post-procedure bleeding. ERCP team concluded only
   option is to repeat ERCP to evaluate sphincterotomy but patient and
   family adamantly refused and this would cause re-intubation and they
   would not want this. Hct was 29.8 this am stable from 30.2 yesterday.
   PPI started yesterday per ERCP team.
   - pm Hct to eval for stability
   - guaiac stools
   - transfuse if Hct <28
   - f/u ERCP recs
   - dc sq heparin
   - cont PPI
   # Leukocytosis: Patient presented with (fever and leukocytosis). Her
   WBC has continued to trend down and she has remained afebrile while in
   the [**Hospital Unit Name 4**].
   - trend fevers and WBC
   - stop antibiotics
   - F/u blood cultures
   # Atrial fibrillation: Patient with unclear cardiac history but has a
   pacemaker and is being V-paced. She has been in and out of  atrial
   fibrillation throughout her [**Hospital Unit Name 4**] stay. On tele her PM has been pacing
   at ~75 bpm with intermitten pacing at ~120 bpm. The reason for this is
   unknown.
   - will cont to hold BP meds as pt normotensive on these and with
   possible GI bleed
   - cont to monitor on tele
   - will try to obtain PM information and consider consulting EP for PM
   interrogation
   # COPD: Unknown history of COPD reported in ED records. Does not use O2
   at baseline, but diffusely wheezy on exam.
   - Albuterol & Ipratropium nebs q6H
   - Wean O2 as tolerates
   # Diabetes Mellitus: Patient with history of DM, but per report, not on
   any medications as an outpatient.
   - NPO
   - q6H fingersticks
   - Regular insulin sliding scale
   # Hypothyroidism:
   - Levothyroxine IV 25mcg daily for now
   # Mild dementia: Unknown baseline, patient appears to be doing well.
   - Minimize lines & tubes
   ICU Care
   Nutrition:
   Comments: regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-1-31**] 02:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2182-02-03 10:16:00 Physician Attending Progress Note
Chief Complaint: Pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2182-2-2**] 08:30 AM
   -HCT without substantial change over past 24 hours
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2182-2-2**] 06:19 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2182-2-3**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-2-3**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**83**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 68 (68 - 89) bpm
   BP: 123/53(70) {117/37(55) - 156/76(91)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Height: 62 Inch
             Total In:
                                                                    530 mL
                                                                    102 mL
   PO:
             TF:
   IVF:
                                                                    530 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                    727 mL
                                                                    320 mL
   Urine:
                                                                    727 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -197 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   233 K/uL
   94 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   21 mg/dL
   102 mEq/L
   138 mEq/L
   29.4 %
   11.7 K/uL
        [image002.jpg]
                             [**2182-1-31**]  03:41 AM
                             [**2182-1-31**]  04:18 AM
                             [**2182-1-31**]  07:40 AM
                             [**2182-1-31**]  02:44 PM
                             [**2182-1-31**]  04:13 PM
                             [**2182-2-1**]  03:34 AM
                             [**2182-2-1**]  02:08 PM
                             [**2182-2-2**]  03:54 AM
                             [**2182-2-2**]  02:11 PM
                             [**2182-2-3**]  06:30 AM
   WBC
   23.0
   25.4
   19.0
   16.2
   11.7
   Hct
   35.1
   34.0
   31.8
   30.2
   29.8
   29.9
   29.4
   Plt
   [**Telephone/Fax (3) 11942**]09
   233
   Cr
   1.1
   0.9
   0.7
   0.7
   0.6
   TCO2
   31
   30
   29
   Glucose
   129
   245
   95
   77
   94
   Other labs: PT / PTT / INR:13.8/33.7/1.2, ALT / AST:143/32, Alk Phos /
   T Bili:225/0.6, Amylase / Lipase:138/278, Differential-Neuts:87.5 %,
   Band:6.0 %, Lymph:6.8 %, Mono:4.6 %, Eos:0.8 %, Lactic Acid:3.0 mmol/L,
   Albumin:2.8 g/dL, LDH:141 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female with initial admission with pancreatitis and now s/p ERCP
   and sphincterotomy with persistent GI Bleeding noted.
   1)pancreatitis
Pain well controlled
   -Zosyn stopped
   -PO diet advancing
   -Follow LFt
s but show improvement
   -Will need ERCP to remove stent in future
   2)GI Bleed-
   -HCT stabilized acros time
   -Follow daily HCT
   -No further stool passage suggesting ongoing bleeding
   -PPI today
   3)Altered Mental Status-
   -Patient moving all extremities
   -Patient with delirum which may be toxic metabolic with acute illness,
   medication effects, altered sleep wake cycles
   -Will discuss through interpreter with patient and follow examination
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-1-31**] 02:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 33 minutes